US07868188B2
N-[5-(2-Amino-4-methyl-1,3-thiazol-5-yl)-2-chloropyridin-3-yl]benzenesulfonamide
Using an analogous procedure to that described in Example 61, N-[5-(6-chloro-5-phenylsulfonylaminopyridin-3-yl)-4-methyl-1,3-thiazol-2-yl]acetamide was hydrolysed with aqueous hydrochloric acid solution to give the title compound; 1H NMR Spectrum: (DMSOd6) 2.11 (s, 3H), 7.24 (s, 2H), 7.50 (d, 1H), 7.60 (m, 2H), 7.68 (m, 1H), 7.77 (d, 2H), 8.14 (s, 1H), 10.42 (br s, 1H); Mass Spectrum: M+H+ 381.

reactant | N-[5-(6-chloro-5-phenylsulfonylaminopyridin-3-yl)-4-methyl-1,3-thiazol-2-yl]acetamide | ClC1=C(C=C(C=N1)C1=C(N=C(S1)NC(C)=O)C)NS(=O)(=O)C1=CC=CC=C1 | C17H15ClN4O3S2
reactant | hydrochloric acid | Cl | ClH
product | N-[5-(2-Amino-4-methyl-1,3-thiazol-5-yl)-2-chloropyridin-3-yl]benzenesulfonamide | NC=1SC(=C(N1)C)C=1C=C(C(=NC1)Cl)NS(=O)(=O)C1=CC=CC=C1 | C15H13ClN4O2S2
